US05252732
1-(2-t-Butyldimethylsilyloxyethyl)-5-bromoindole
A solution of 1(2-hydroxyethyl)-5-bromoindole (6 gm, 0.025 mol), t-butyldimethylsilyl chloride (4.5 gm, 0.03 mol) and triethylamine (4.2 ml, 0.03 mol) in CH2Cl2 (60 ml) was stirred for 12 hours at room temperature. The reaction mixture was then washed twice with H2O, dried over Na2SO4, filtered and concentrated in vacuo to provide the title compound as a yellow oil. 1H NMR was consistent with the desired structure.

reactant | 1(2-hydroxyethyl)-5-bromoindole | 0.025 mol, 6 gm | OCCN1C=CC2=CC(=CC=C12)Br | C10H10BrNO
reactant | t-butyldimethylsilyl chloride | 0.03 mol, 4.5 gm | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.03 mol, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-t-Butyldimethylsilyloxyethyl)-5-bromoindole | [Si](C)(C)(C(C)(C)C)OCCN1C=CC2=CC(=CC=C12)Br | C16H24BrNOSi
